US07862981B2
Synthesis of 1,3-bis(2-formyl-6-methyl-4-hydroxyphenyl)-adamantane
In a 2-L four-necked flask, 615.6 g (5.4 mol) of trifluoroacetic acid was measured, and 126.0 g (0.9 mol) of hexamethylenetetramine was dropwise added and mixed at room temperature over 1 hour. Then, to the resulting mixture was intermittently added 104.4 g (0.3 mol) of 1,3-bis(2-methyl-4-hydroxyphenyl)-adamantane in the form of a powder at 70° C. over 1 hour, followed by stirring at 90° C. for 25 hours. Then, to the resulting reaction mixture, 210.0 g of water was added at 70° C., followed by stirring for 2 hours and 30 minutes while maintaining the temperature (wherein crystals were deposited while stirring). Thereafter, the resultant was cooled and neutralized with 16% by weight aqueous solution of sodium hydroxide. The neutralized liquid was elevated to 60° C., and 100 g of ethyl acetate was added thereto and cooled. Then, the resultant was filtered to obtain 126.8 g of crude crystals. Subsequently, the obtained crude crystals, 1,204.6 g of ethyl acetate and 150 g of water were charged into a 2-L four-necked flask, and the content of the flask was elevated to 70° C. and melted. Then, the resultant was allowed to stand for 10 minutes, followed by removing the water layer. Then, 100 g of water was added, and water washing and liquid separation were performed in the same manner. Thereafter, the resultant was concentrated under reduced pressure to remove 962.3 g of the solvent (wherein crystals were deposited during the concentration). The resulting concentrated product was cooled to 23° C., followed by filtration and drying, thereby obtaining 68.2 g of an object product which was a pale yellow powder (yield: 56.3%, based on 1,3-bis(2-methyl-4-hydroxyphenyl)adamantane).

reactant | trifluoroacetic acid | 5.4 mol, 615.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylenetetramine | 0.9 mol, 126.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 1,3-bis(2-methyl-4-hydroxyphenyl)-adamantane | 0.3 mol, 104.4 g | CC1=C(C=CC(=C1)O)C12CC3(CC(CC(C1)C3)C2)C2=C(C=C(C=C2)O)C | C24H28O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 150 g | O | H2O
reactant | water | 210.0 g | O | H2O
solvent | ethyl acetate | 204.6 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 g | C(C)(=O)OCC | C4H8O2
product | 1,3-bis(2-formyl-6-methyl-4-hydroxyphenyl)-adamantane | 68.2 g, yield: 56.3% | C(=O)C1=C(C(=CC(=C1)O)C)C12CC3(CC(CC(C1)C3)C2)C2=C(C=C(C=C2C)O)C=O | C26H28O4
